* C:\Users\Mark\Documents\MEGAsync\CEFET\tcc\dnar\spice\source_conversions.asc
L1 N001 0 1000
R1 N001 0 500
I1 0 N001 PWL file=square_voltage_source_t40.csv
L2 N004 0 1000
R4 N003 N004 500
V1 N003 0 PWL file=square_l1il_i1p_conv_2_voltage_r500_t40.csv
R2 N002 0 500
I2 0 N002 PWL file=square_l1il_i1p_conv_2_voltage_r500_t40.csv
R3 N005 N006 500
V2 N005 0 PWL file=square_voltage_source_t40.csv
C2 N002 0 50e-4
C1 N006 0 50e-4
L3 N008 0 1000
R5 N007 N008 500
V3 N007 0 PWL file=square_voltage_source_t40.csv
L4 N009 0 1000
R6 N009 0 500
V4 N009 0 PWL file=square_voltage_source_t40.csv
R7 N010 N011 5
V5 N010 0 PULSE(0 10 10 0.001 0.001 20 50)
L6 N011 N012 10
C§L N012 0 3
.tran 150
* PULSE(0 0.02 10 0.001 0.001 20 50)
* PULSE(0 5000 10 0.001 0.001 20 50)
* PWL file=square_voltage_source_t40.csv
* 10 10 0.01
.backanno
.end
